US04421753
1-(5-Amino-4H-1,2,4-triazol-3-yl)-4-(p-fluorobenzyl)piperazine
The entire portion (0.1 mole) of N-cyano-4-(p-fluorobenzyl)-1-piperazinecarboximidothioic acid, methyl ester, prepared as an oil (Example 27) was dissolved in 150 ml. of ethanol and 5.5 ml. (0.11 mole) of hydrazine hydrate were added. The mixture was refluxed for 6 hours and then evaporated to a solid residue which as crystallized from 200 ml. of ethanol, giving 21 g. of the desired product as colorless crystals, m.p. 213°-216° C. (dec.).

reactant | N-cyano-4-(p-fluorobenzyl)-1-piperazinecarboximidothioic acid, methyl ester | 0.1 mole | C(#N)N=C(SC)N1CCN(CC1)CC1=CC=C(C=C1)F | C14H17FN4S
reactant | hydrazine hydrate | 0.11 mole | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 1-(5-Amino-4H-1,2,4-triazol-3-yl)-4-(p-fluorobenzyl)piperazine | NC=1NC(=NN1)N1CCN(CC1)CC1=CC=C(C=C1)F | C13H17FN6
